* Schematics Netlist *



C_C1         0 Vout1  106f  
C_C2         0 Vout2  106f  
M_M3         Vout2 Vout1 0 0 MbreakN-X           
M_M4         Vout2 Vout1 $N_0001 $N_0001 Mbreakp           
M_M1         Vout1 Vout3 0 0 MbreakN-X           
M_M2         Vout1 Vout3 $N_0001 $N_0001 Mbreakp           
V_V6         $N_0001 0 5V
M_M6         Vout3 Vout2 $N_0001 $N_0001 Mbreakp           
M_M5         Vout3 Vout2 0 0 MbreakN-X           
C_C3         0 Vout3  106f  
R_R1         0 Vout3  100Meg  
