* Schematics Netlist *



V_V2         $N_0001 0 5V
C_C1         0 Vout  106f  
V_Vin         $N_0002 0 0V
M_M1         Vout $N_0002 0 0 MbreakN-X           
M_M2         Vout $N_0002 $N_0001 $N_0001 Mbreakp           
